### PR TITLE
[Merged by Bors] - feat(Order/KrullDimension): some lemmas relating `Order.height`, `Order.coheight` and `krullDim`

### PR DESCRIPTION
**Pull request by xyzw12345**
This PR mostly consists of the lemmas related to `Order.height`, `Order.coheight`, and `krullDim` appearing in the process of working on PR #21041. We thought that the lemmas may be useful to other PRs (like #22127 perhaps?), so we decided to open it into a separate PR to accelerate the review process.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -778,8 +781,53 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
   rw [← krullDim_orderDual]
   exact height_top_eq_krullDim (α := αᵒᵈ)
 
+lemma height_eq_krullDim_Iic {α : Type*} [Preorder α] (x : α) :
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:784]: Is there an `α` already in scope?

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -778,8 +781,53 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
+  · apply iSup_le; intro p; apply iSup_le; intro _
+    have mono : StrictMono (fun (y : Set.Iic x) ↦ y.1) := fun _ _ h ↦ h
+    rw [← LTSeries.map_length p (fun x ↦ x.1) mono, ]
+    refine le_iSup₂ (f := fun p hp ↦ (p.length : ℕ∞)) (p.map (fun x ↦ x.1) mono) ?_
+    exact (p.toFun (Fin.last p.length)).2
+
+lemma coheight_eq_krullDim_Ici {α : Type*} [Preorder α] (x : α) :
+    (coheight x : ℕ∞) = krullDim (Set.Ici x) := by
+  rw [coheight, ← krullDim_orderDual]
+  let iso : (Set.Ici x)ᵒᵈ ≃o Set.Iic (α := αᵒᵈ) x := {
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:803]: Does this already exist somewhere? If not we probably want it.

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -778,8 +781,53 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
 end krullDim
 
+section finiteDimensional
+
+variable {α : Type*} [Preorder α]
+
+lemma finiteDimensionalOrder_iff_krullDim_ne_bot_and_top :
+    FiniteDimensionalOrder α ↔ (krullDim α ≠ ⊥ ∧ krullDim α ≠ ⊤) := by
+  by_cases h : Nonempty α
+  · haveI := h
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:822]: Is this line needed?

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -778,8 +781,53 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
+    rw [← not_infiniteDimensionalOrder_iff, ← krullDim_eq_top_iff]
+    simp
+  · constructor
+    · exact (fun h1 ↦ False.elim (h (@LTSeries.nonempty_of_finiteDimensionalType α ‹_› ‹_›)))
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:826]: Can you use the `:=` notation instead of `@`?

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (xyzw12345) [reply Mathlib/Order/KrullDimension.lean:803]: I didn't find similar things using the loogle query `Order.krullDim, Order.height` .

Comment (riccardobrasca) [reply Mathlib/Order/KrullDimension.lean:803]: I mean the `iso`, not the theorem itself. `OrderIso.refl _` should work.

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -800,13 +800,7 @@ lemma height_eq_krullDim_Iic (x : α) :
...
     (coheight x : ℕ∞) = krullDim (Set.Ici x) := by
   rw [coheight, ← krullDim_orderDual]
-  let iso : (Set.Ici x)ᵒᵈ ≃o Set.Iic (α := αᵒᵈ) x := {
-    toFun := fun x ↦ x
-    invFun := fun x ↦ x
-    left_inv := fun x ↦ rfl
-    right_inv := fun x ↦ rfl
-    map_rel_iff' := fun {x y} ↦ by simp
-  }
+  let iso : (Set.Ici x)ᵒᵈ ≃o Set.Iic (α := αᵒᵈ) x := OrderIso.refl _
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:803]: Can you use it directly in the `rw`?

Comment (xyzw12345) [reply Mathlib/Order/KrullDimension.lean]: It worked as well. Thanks for the suggestion!

File: Mathlib/Order/KrullDimension.lean [hunk 6]
```diff
@@ -778,8 +781,43 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
   exact height_top_eq_krullDim (α := αᵒᵈ)
 
+lemma height_eq_krullDim_Iic (x : α) :
+    (height x : ℕ∞) = krullDim (Set.Iic x) := by
+  rw [← height_top_eq_krullDim, height, height, WithBot.coe_inj]
+  apply le_antisymm
+  · apply iSup_le; intro p; apply iSup_le; intro hp
+    let q := LTSeries.mk p.length (fun i ↦ (⟨p.toFun i, le_trans (p.monotone (Fin.le_last _)) hp⟩
+     : Set.Iic x)) (fun _ _ h ↦ p.strictMono h)
+    rw [show p.length = q.length by rfl]
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:791]:
```suggestion
```

File: Mathlib/Order/KrullDimension.lean [hunk 7]
```diff
@@ -778,8 +781,43 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
+    simp only [le_top, iSup_pos, ge_iff_le]
+    apply le_iSup (fun p ↦ (p.length : ℕ∞)) q
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:793]:
```suggestion
    exact le_iSup (fun p ↦ (p.length : ℕ∞)) q
```

File: Mathlib/Order/KrullDimension.lean [hunk 8]
```diff
@@ -778,8 +781,43 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
   rw [← krullDim_orderDual]
   exact height_top_eq_krullDim (α := αᵒᵈ)
 
+lemma height_eq_krullDim_Iic (x : α) :
+    (height x : ℕ∞) = krullDim (Set.Iic x) := by
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:785]:
```suggestion
lemma height_eq_krullDim_Iic (x : α) : (height x : ℕ∞) = krullDim (Set.Iic x) := by
```
If you want.

File: Mathlib/Order/KrullDimension.lean [hunk 9]
```diff
@@ -778,8 +781,43 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
+section finiteDimensional
+
+variable {α : Type*} [Preorder α]
+
+lemma finiteDimensionalOrder_iff_krullDim_ne_bot_and_top :
+    FiniteDimensionalOrder α ↔ (krullDim α ≠ ⊥ ∧ krullDim α ≠ ⊤) := by
+  by_cases h : Nonempty α
+  · simp [← not_infiniteDimensionalOrder_iff, ← krullDim_eq_top_iff]
+  · constructor
+    · exact (fun h1 ↦ False.elim (h (LTSeries.nonempty_of_finiteDimensionalType (α := α))))
```
Comment (riccardobrasca) [inline Mathlib/Order/KrullDimension.lean:816]:
```suggestion
    · exact (fun h1 ↦ False.elim (h (LTSeries.nonempty_of_finiteDimensionalType α)))
```

File: Mathlib/Order/RelSeries.lean [hunk 10]
```diff
@@ -171,6 +171,10 @@ variable {r} {s : RelSeries r} {x : α}
 lemma nonempty_of_infiniteDimensional [r.InfiniteDimensional] : Nonempty α :=
   ⟨RelSeries.withLength r 0 0⟩
 
+lemma nonempty_of_finiteDimensional [r.FiniteDimensional] : Nonempty α := by
+  obtain ⟨p, _⟩ := (Rel.finiteDimensional_iff r).mp ‹r.FiniteDimensional›
```
Comment (riccardobrasca) [inline Mathlib/Order/RelSeries.lean:175]:
```suggestion
  obtain ⟨p, _⟩ := (Rel.finiteDimensional_iff r).mp ‹_›
```

File: Mathlib/Order/RelSeries.lean [hunk 11]
```diff
@@ -692,6 +696,10 @@ protected noncomputable def withLength [InfiniteDimensionalOrder α] (n : ℕ) :
 lemma nonempty_of_infiniteDimensionalType [InfiniteDimensionalOrder α] : Nonempty α :=
   ⟨LTSeries.withLength α 0 0⟩
 
+lemma nonempty_of_finiteDimensionalType [FiniteDimensionalOrder α] : Nonempty α := by
+  obtain ⟨p, _⟩ := (Rel.finiteDimensional_iff (· < ·)).mp ‹_›
```
Comment (riccardobrasca) [inline Mathlib/Order/RelSeries.lean:700]:
```suggestion
  obtain ⟨p, _⟩ := (Rel.finiteDimensional_iff _).mp ‹_›
```
Also, this can be an instance I think.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/Order/KrullDimension.lean [hunk 12]
```diff
@@ -778,8 +781,41 @@ lemma coheight_bot_eq_krullDim [OrderBot α] : coheight (⊥ : α) = krullDim α
...
+  exact height_eq_krullDim_Iic _
+
 end krullDim
 
+section finiteDimensional
+
+variable {α : Type*} [Preorder α]
+
+lemma finiteDimensionalOrder_iff_krullDim_ne_bot_and_top :
+    FiniteDimensionalOrder α ↔ (krullDim α ≠ ⊥ ∧ krullDim α ≠ ⊤) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:810]:
```suggestion
    FiniteDimensionalOrder α ↔ krullDim α ≠ ⊥ ∧ krullDim α ≠ ⊤ := by
```

File: Mathlib/Order/KrullDimension.lean [hunk 13]
```diff
@@ -799,6 +835,19 @@ end typeclass
 
 section calculations
 
+@[simp] lemma krullDim_isSimpleOrder {α : Type*} [PartialOrder α] [BoundedOrder α]
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:838]:
```suggestion
@[simp] lemma krullDim_of_isSimpleOrder {α : Type*} [PartialOrder α] [BoundedOrder α]
```

File: Mathlib/Order/RelSeries.lean [hunk 14]
```diff
@@ -692,6 +696,10 @@ protected noncomputable def withLength [InfiniteDimensionalOrder α] (n : ℕ) :
 lemma nonempty_of_infiniteDimensionalType [InfiniteDimensionalOrder α] : Nonempty α :=
   ⟨LTSeries.withLength α 0 0⟩
 
+lemma nonempty_of_finiteDimensionalType [FiniteDimensionalOrder α] : Nonempty α := by
```
Comment (YaelDillies) [inline Mathlib/Order/RelSeries.lean:699]:
```suggestion
lemma nonempty_of_finiteDimensionalOrder [FiniteDimensionalOrder α] : Nonempty α := by
```

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! Very excited about the end result.

File: Mathlib/Order/RelSeries.lean (hunk 14 above)
Comment (xyzw12345) [reply Mathlib/Order/RelSeries.lean:699]: I thought this one should be named to the line above (`nonempty_of_infiniteDimensionalType`)?

Comment (xyzw12345) [reply Mathlib/Order/RelSeries.lean:699]: Or should I rename the other one as well?

Comment (YaelDillies) [reply Mathlib/Order/RelSeries.lean:699]: Yes, please rename the one above too 🙏

**Review by YaelDillies — APPROVED** [review]
Can you run `scripts/add_deprecations.sh`? Thanks!

maintainer delegate

**Comment by xyzw12345** [comment]
> Can you run `scripts/add_deprecations.sh`? Thanks!
> 
> maintainer delegate

I'm sorry, but how exactly should I run this? Sorry for being not very familiar with these actions.

**Comment by riccardobrasca** [comment]
> > Can you run `scripts/add_deprecations.sh`? Thanks!
> > maintainer delegate
> 
> @YaelDillies I'm sorry, but how exactly should I run this? Sorry for being not very familiar with these actions. Thanks for your help!

You can do it locally on your computer. Here are the results
```
Processing Mathlib/Order/KrullDimension.lean
Processing Mathlib/Order/RelSeries.lean

`Mathlib/Order/RelSeries.lean` deprecations:
1: @[deprecated (since := "2025-03-01")]||||alias nonempty_of_infiniteDimensionalType := nonempty_of_infiniteDimensionalOrder

```

**Comment by riccardobrasca** [comment]
> OK! Thanks a lot for that! Should I add that line to the file manually? Or does it automatically modifies the files and you can directly commit the changes? @riccardobrasca

Yes, the script does it for you. Just run `scripts/add_deprecations.sh` inside the mathlib folder and then commit normally.

**Comment by xyzw12345** [comment]
Thanks! Added now!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
